US07601714B2
N4-[(trans-4-aminocyclohexyl)methyl]-N2-(1,2-diphenylethyl)-5-nitropyrimidine-2,4-diamine
(4-{[2-(1,2-Diphenyl-ethylamino)-5-nitro-pyrimidin-4-ylamino]-methyl}-cyclohexyl)-carbamic acid tert-butyl ester (105 mg, 0.19 mmol) was dissolved in dioxane (5 mL). An HCl solution (2 mL of a 4M solution) was added. After 18 h, an oil separated from the solvent. The solvent was decanted and the oil was dissolved in water and lyopholized yielding 57 mg of the title compound as a pale yellow solid, m/z 447.3 [M+1]+.

reactant | (4-{[2-(1,2-Diphenyl-ethylamino)-5-nitro-pyrimidin-4-ylamino]-methyl}-cyclohexyl)-carbamic acid tert-butyl ester | 0.19 mmol, 105 mg | C(C)(C)(C)OC(NC1CCC(CC1)CNC1=NC(=NC=C1[N+](=O)[O-])NC(CC1=CC=CC=C1)C1=CC=CC=C1)=O | C30H38N6O4
reactant | HCl | Cl | ClH
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | N4-[(trans-4-aminocyclohexyl)methyl]-N2-(1,2-diphenylethyl)-5-nitropyrimidine-2,4-diamine | 57 mg | N[C@@H]1CC[C@H](CC1)CNC1=NC(=NC=C1[N+](=O)[O-])NC(CC1=CC=CC=C1)C1=CC=CC=C1 | C25H30N6O2
